US07511144B2
Concentrated sulfuric acid (1.2 mL) was added to a solution of 2.70 g (16.8 mmol) of 8-fluoro-2-methylquinoline and 7.70 g (33.7 mmol) of ammonium peroxodisulfate in a mixture of methanol (35 mL)-water (25 mL) and heated under reflux for 15 hours. The reaction mixture was left to cool, followed by a removal of methanol under a reduced pressure. Sodium carbonate was added to the residue to adjust its pH to 10, and then the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was removed. The obtained residue was washed with ether to obtain 1.03 g (yield 32%) of (8-fluoro-2-methylquinolin-4-yl)methanol. Its physical properties are shown below.

reactant | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 8-fluoro-2-methylquinoline | 16.8 mmol, 2.70 g | FC=1C=CC=C2C=CC(=NC12)C | C10H8FN
reactant | ammonium peroxodisulfate | 33.7 mmol, 7.70 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | water | 25 mL | O | H2O
reactant | methanol | 35 mL | CO | CH4O
product | (8-fluoro-2-methylquinolin-4-yl)methanol | 1.03 g, yield 32% | FC=1C=CC=C2C(=CC(=NC12)C)CO | C11H10FNO
